US07951810B2
Step c: 3-{[(2R,3R,4S,5R)-5-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-2-(hydroxymethyl)-4-methoxytetrahydrofuran-3-yl]oxy}-1,1,3,3-tetraisopropyldisiloxan-1-ol
To a solution of N-[(1S)-2,3-dihydro-1H-inden-1-yl]-9-[(6aR,8R,9S,9aR)-2,2,4,4-tetraisopropyl-9-methoxytetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purin-6-amine (238 mg, 0.37 mmol) in methanol/dioxane (1:4, 8 mL) was added 3.2 mL 0.2N HCl. After stirring for two hours the solvent was removed in vacuo and the residue purified by silica gel chromatography (10 to 50% EtOAc/hexanes) to afford 32 mg (13%) of the title compound.

reactant | N-[(1S)-2,3-dihydro-1H-inden-1-yl]-9-[(6aR,8R,9S,9aR)-2,2,4,4-tetraisopropyl-9-methoxytetrahydro-6H-furo[3,2-f][1,3,5,2,4]trioxadisilocin-8-yl]-9H-purin-6-amine | 0.37 mmol, 238 mg | [C@@H]1(CCC2=CC=CC=C12)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H]([C@@H]2O[Si](O[Si](OC[C@H]2O1)(C(C)C)C(C)C)(C(C)C)C(C)C)OC | C32H49N5O5Si2
reactant | HCl | 0.2N, 3.2 mL | Cl | ClH
reactant | methanol dioxane | 8 mL | CO.O1CCOCC1
product | 3-{[(2R,3R,4S,5R)-5-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-2-(hydroxymethyl)-4-methoxytetrahydrofuran-3-yl]oxy}-1,1,3,3-tetraisopropyldisiloxan-1-ol | 32 mg, 13% | [C@@H]1(CCC2=CC=CC=C12)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H]([C@@H]([C@H](O1)CO)O[Si](O[Si](O)(C(C)C)C(C)C)(C(C)C)C(C)C)OC | C32H51N5O6Si2
